US07456164B2
Intermediate 72: 4-{4-[(4-methylpiperazin-1-yl)methyl]tetrahydro-2H-pyran-4-yl}phenol
To a suspension of sodium thiomethoxide (660 mg, 9.4 mmol) in N,N-dimethylformamide (2 ml) was added 1-{[4-(4-methoxyphenyl)tetrahydro-2H-pyran-4-yl]methyl}4-methylpiperazine (410 mg, 1.3 mmol) in N,N-dimethylformamide (3 ml). The reaction mixture was heated to 130° C. under nitrogen for 18 hours. The mixture was then allowed to cool down to room temperature and saturated aqueous ammonium chloride was added. The mixture was extracted with ethyl acetate (2×30 ml). The combined organic extracts were dried over sodium sulphate, filtered and concentrated in vacuo to provide a pale brown oil. This was azeotroped with toluene and dried under high vacuum to provide the title compound (390 mg, 100%) as an off-white solid. HRMS ESI+ m/z 291.2062 [MH]+.

reactant | sodium thiomethoxide | 9.4 mmol, 660 mg | C[S-].[Na+]
reactant | 1-{[4-(4-methoxyphenyl)tetrahydro-2H-pyran-4-yl]methyl}4-methylpiperazine | 1.3 mmol, 410 mg | COC1=CC=C(C=C1)C1(CCOCC1)CN1CCN(CC1)C | C18H28N2O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 4-{4-[(4-methylpiperazin-1-yl)methyl]tetrahydro-2H-pyran-4-yl}phenol | 390 mg, 100% | CN1CCN(CC1)CC1(CCOCC1)C1=CC=C(C=C1)O | C17H26N2O2
